* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1763-3.3.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 PWL(0 0 1 10)
C1 OUT 0 10µ
Rload OUT 0 500
C2 OUT N001 .01µ
X§U1 OUT OUT 0 N001 IN MP_01 MP_02 IN LT1763-3.3
.tran 1
.lib LT1763.lib
.backanno
.end
